US04435404
Into 100 ml of isopropanol were added 1.6 g of 6-hydroxy-3,4-dihydrocarbostyril and 1.8 ml of DBU. The mixture was refluxed under stirring and 4.2 g of 4-cyclohexyl-1-γ-bromobutylpiperazine was added thereto. After the addition operation, the reaction mixture was further refluxed under stirring for 8 hours, then concentrated. The residue thus obtained was extracted with chloroform and the chloroform layer was washed with 1N-NaOH aqueous solution and water, then dried with anhydrous sodium sulfate. The drying agent was removed by filtration and the mother liquor was concentrated. The residue thus obtained was treated by a silica-gel column chromatography [the solvent used was a mixture of chloroform:methanol=20:1 (vol/vol)]. 2.8 Grams of 6-[3-(4-cyclohexyl-1-piperazinylcarbonyl)propoxy]-3,4-dihydrocarbostyril was obtained as in the form of colorless needle-like substance. Melting point: 133°-134° C.

reactant | isopropanol | 100 ml | C(C)(C)O | C3H8O
reactant | 6-hydroxy-3,4-dihydrocarbostyril | 1.6 g | OC=1C=C2CCC(NC2=CC1)=O | C9H9NO2
reactant | DBU | 1.8 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 4-cyclohexyl-1-γ-bromobutylpiperazine | 4.2 g | C1(CCCCC1)N1CCN(CC1)CCC(C)Br | C14H27BrN2
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-[3-(4-cyclohexyl-1-piperazinylcarbonyl)propoxy]-3,4-dihydrocarbostyril | C1(CCCCC1)N1CCN(CC1)C(=O)CCCOC=1C=C2CCC(NC2=CC1)=O | C23H33N3O3
